US07199139B2
(S)-4-Benzyl-3-[(2S,3R)-3-(4-benzyloxyphenyl)-2-(4-fluorophenoxy)-3-hydroxypropionyl]oxazolidin-2-one
The target compound (2.68 g) was obtained as a foam by carrying out the reaction and the post-treatment according to Reference example 20(b) using (S)-4-benzyl-3-[(4-fluorophenoxy)acetyl]oxazolidin-2-one (1.96 g) obtained from Reference example 22(a), a solution of dibutylboron triflate in dichloromethane (1M, 7.14 ml), triethylamine (1.08 ml) and 4-benzyloxybenzaldehyde (1.39 g).

reactant | (S)-4-benzyl-3-[(4-fluorophenoxy)acetyl]oxazolidin-2-one | 1.96 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(COC1=CC=C(C=C1)F)=O | C18H16FNO4
reactant | dibutylboron triflate | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | 4-benzyloxybenzaldehyde | 1.39 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
solvent | dichloromethane | 1M, 7.14 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1.08 ml | C(C)N(CC)CC | C6H15N
product | (S)-4-Benzyl-3-[(2S,3R)-3-(4-benzyloxyphenyl)-2-(4-fluorophenoxy)-3-hydroxypropionyl]oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@H]([C@H](O)C1=CC=C(C=C1)OCC1=CC=CC=C1)OC1=CC=C(C=C1)F)=O | C32H28FNO6
